US07547702B2
1,2 Equivalents of K2CO3, 1,2 equivalents of 4-chlorophenylboronic acid and 10 mol % of Pd((PPh3)4 are added to a solution of N′-[2-(4-bromo-phenyl)-7-chloro-quinazolin4-yl]-N,N-diethyl-propane-1,3-diamine (16,5 mmol) in 80 ml of DMF and it is heated at 80° until conversion is complete. After filtering off the catalyst and customary working up for solution reactions, N′-[7-chloro-2-(4′-chloro-biphenyl-4-yl)-quinazolin-4-yl]-N,N-diethyl-propane-1,3-diamine is obtained.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorophenylboronic acid | 1,2 equivalents | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | N′-[2-(4-bromo-phenyl)-7-chloro-quinazolin4-yl]-N,N-diethyl-propane-1,3-diamine | 16,5 mmol | BrC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)NCCCN(CC)CC)Cl | C21H24BrClN4
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | Pd | [Pd] | Pd
product | N′-[7-chloro-2-(4′-chloro-biphenyl-4-yl)-quinazolin-4-yl]-N,N-diethyl-propane-1,3-diamine | ClC1=CC=C2C(=NC(=NC2=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl)NCCCN(CC)CC | C27H28Cl2N4
